US08058299B2
To a solution of (S)-3-(5-nitro-pyridin-2-ylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester described previously (300 mg, 0.97 mmol) in tetrahydrofuran cooled at 0° C. was added sodium hydride (47 mg, 1.95 mmol) gradually. The mixture was stirred at room temperature for 15 min followed by the addition of methyl iodide (166 mg, 1.17 mmol). The reaction mixture was stirred for 2 h and then extracted with ethyl acetate and washed with water. The organic layer was dried over sodium sulfate, filtered and concentrated to give (S)-3-[(5-nitro-pyridin-2-yl)-methyl-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester (295 mg, crude) as a yellow solid, which was directly used in the next step without further purification. LCMS calcd for C15H22N4O4 (m/e) 322, obsd 323 (M+H).

reactant | (S)-3-(5-nitro-pyridin-2-ylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC1=NC=C(C=C1)[N+](=O)[O-] | C14H20N4O4
reactant | sodium hydride | 1.95 mmol, 47 mg | [H-].[Na+]
reactant | methyl iodide | 1.17 mmol, 166 mg | CI | CH3I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (S)-3-[(5-nitro-pyridin-2-yl)-methyl-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester | 295 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)N(C)C1=NC=C(C=C1)[N+](=O)[O-] | C15H22N4O4
